US05231179
To a solution of (4S)-4-benzyloxazolidin-2-one (0.164 g; 0.927 mmol) in dry tetrahydrofuran (3.8 ml), a 1.62 N solution of n-butyl lithium in hexane (0.571 ml; 0.927 mmol) was added at 0° C., and then 2-bromopropionyl bromide (0.106 ml; 1.01 mmol) was added at the same temperature. After 10 minutes, an aqueous solution of saturated sodium hydrogen carbonate (1 ml) was added to decompose the excess reaction agent. The reaction mixture was diluted with ethyl acetate, washed with brine and dried over anhydrous magnesium sulfate. After distilling off the solvent, the resulting solid was purified by silica gel chromatography (hexane:dichloromethane=2:3-0:1) to give a less polar (4S)-3-(2'-bromopropionyl)-4-benzyloxazolidin-2-one (0.137 g, yield, 47%) and a (4S)-3-(2'-bromopropionyl)-4-benzyloxazolidin-2-one (0.145 g, yield, 50%).

reactant | (4S)-4-benzyloxazolidin-2-one | 0.927 mmol, 0.164 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.927 mmol, 0.571 ml | CCCCCC | C6H14
reactant | 2-bromopropionyl bromide | 1.01 mmol, 0.106 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3.8 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S)-3-(2'-bromopropionyl)-4-benzyloxazolidin-2-one | 0.137 g, 47% | BrC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C | C13H14BrNO3
